US07271264B2
5-Fluoro-3H-benzo[c][1,2]oxaborol-1-ol
Dissolve 1-bromo-2-(1-ethoxy-ethoxymethyl)-4-fluoro-benzene(5.4 g, 19.5 mmol) in dry THF (100 mL) and cool to −78° C. under nitrogen. Add butyl lithium (2.5M in Hexanes, 10.2 mL, 25.4 mmol) dropwise at −78° C. Upon complete addition, stir the reaction at −78° C. for 10 minutes and then add trimethyl borate (4.4 mL, 39 mmol) and warm the reaction to room temperature. Pour the reaction into 1N HCl (100 mL) and stir for 1 hour. Extract the biphasic mixture with ether three times. Dry the combined organic layers with sodium sulfate, filter and concentrate in vacuo. Triturate the oily residue with cold hexanes to yield 2.1 g (70%) of the title compound as a white solid. 1H NMR (d6-DMSO) 9.18 (s, 1H), 7.70 (dd, J=8.2, 5.8 Hz, 1H), 7.20 (dd, J=9.5, 2.7 Hz, 1H), 7.11 (m, 1H), 4.92 (s, 1H).

reactant | 1-bromo-2-(1-ethoxy-ethoxymethyl)-4-fluoro-benzene | 19.5 mmol, 5.4 g | BrC1=C(C=C(C=C1)F)COC(C)OCC | C11H14BrFO2
reactant | butyl lithium | 25.4 mmol, 2.5M, 10.2 mL | C(CCC)[Li]
reactant | trimethyl borate | 39 mmol, 4.4 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3H-benzo[c][1,2]oxaborol-1-ol | 2.1 g, 70% | FC1=CC2=C(B(OC2)O)C=C1 | C7H6BFO2
